US04551278
3-methoxy-20-isocyano-20-p-methylphenylsulfonyl-21-chloropregna-3,5,9(11),16-tetra-ene
3-Methoxy-17-(isocyano-p-methylphenylsulfonylmethylene)-androsta-3,5,9(11)-triene (476 mg, 1.00 mmol) and triethylbenzylammonium chloride (20 mg) were dissolved in methylene chloride (10 ml). After stirring for 2 hours at 25° C. with a sodium hydroxide solution (5 ml, 50%), the organic layer was seperated and dried over Na2SO4, followed by filtration over alumina (act. II-III). Evaporation of the solvent afforded the title compound (368 mg, 70%).

reactant | 3-Methoxy-17-(isocyano-p-methylphenylsulfonylmethylene)-androsta-3,5,9(11)-triene | 1.00 mmol, 476 mg | COC1=CC2=CC[C@H]3[C@@H]4CCC([C@@]4(C)CC=C3[C@]2(CC1)C)=C(S(=O)(=O)C1=CC=C(C=C1)C)[N+]#[C-] | C29H33NO3S
reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | triethylbenzylammonium chloride | 20 mg | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
product | 3-methoxy-20-isocyano-20-p-methylphenylsulfonyl-21-chloropregna-3,5,9(11),16-tetra-ene | 368 mg, 70% | COC1=CC2=CC[C@H]3[C@@H]4CC=C(C(CCl)(S(=O)(=O)C5=CC=C(C=C5)C)[N+]#[C-])[C@]4(CC=C3[C@]2(CC1)C)C | C30H34ClNO3S
